US09168259B2
A solution of 440 mg (1.3 mmol) methyl 2-(ethylsulfanyl)-6-morpholin-4-yl-4-(trifluoromethyl)-pyridine-3-carboxylate in a MeOH/THF mixture (6 ml, 1:1 v/v) was treated with a 2M aq. LiOH sol. (3 ml) and was then stirred at 60° C. for 5 d. After cooling to RT the RM was acidified with a 2M aq. HCl sol. to pH 2. Upon dilution with EtOAc the precipitate formed was filtered off to give 176 mg (0.5 mmol, 42%) 2-(ethylsulfanyl)-6-morpholin-4-yl-4-(trifluoromethyl)-pyridine-3-carboxylic acid, which was used in the next step without further purification.

reactant | methyl 2-(ethylsulfanyl)-6-morpholin-4-yl-4-(trifluoromethyl)-pyridine-3-carboxylate | 1.3 mmol, 440 mg | C(C)SC1=NC(=CC(=C1C(=O)OC)C(F)(F)F)N1CCOCC1 | C14H17F3N2O3S
reactant | MeOH THF | 6 ml | CO.C1CCOC1
reactant | LiOH | 2M, 3 ml | [Li+].[OH-]
reactant | HCl | 2M | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(ethylsulfanyl)-6-morpholin-4-yl-4-(trifluoromethyl)-pyridine-3-carboxylic acid | 0.5 mmol, 176 mg, 42% | C(C)SC1=NC(=CC(=C1C(=O)O)C(F)(F)F)N1CCOCC1 | C13H15F3N2O3S
